US07112553B1
Methyl 4-aminophenylacetate (110 g, 0.667 mol) was added dropwise to acetic anhydride (600 ml), maintaining the temperature of the reaction mixture below 30° C. by external cooling. Once the addition was complete the mixture was cooled to below 10° C. and concentrated nitric acid (85 ml) was added dropwise. Once the addition of the acid was complete, the mixture was allowed to warm to room temperature and poured onto a mixture of ice and water. The precipitated solid was collected by filtration and dried to give methyl 4-acetamido-3-nitrophenylacetate (120 g) as a pale yellow solid.

reactant | Methyl 4-aminophenylacetate | 0.667 mol, 110 g | NC1=CC=C(C=C1)CC(=O)OC | C9H11NO2
reactant | acetic anhydride | 600 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 85 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | methyl 4-acetamido-3-nitrophenylacetate | 120 g | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C11H12N2O5
